US08536179B2
a) Methyl 7-methyl-1H-indole-4-carboxylate
Under N2 atmosphere, 7-methyl-1H-indole-4-carboxylic acid (1 g, 5.71 mmol), sulfuric acid (300 μL, 5.63 mmol) and methanol (50 mL) were heated at reflux for 10 h. The MeOH was removed in vacuo and the residue dissolved in 30 mL DCM. The solution was washed with water and saturated NaHCO3, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography (Biotage; 0% to 100% EtOAc:Hex; 25 g-HP-silica gel column) to give the title compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.59 (s, 3H), 4.00 (s, 3H), 7.08 (d, J=7.58 Hz, 1H), 7.20-7.26 (m, 1H), 7.38 (t, J=2.78 Hz, 1H), 7.88 (d, J=7.58 Hz, 1H), 8.32 (br. s., 1H).

reactant | 7-methyl-1H-indole-4-carboxylic acid | 5.71 mmol, 1 g | CC1=CC=C(C=2C=CNC12)C(=O)O | C10H9NO2
reactant | sulfuric acid | 5.63 mmol, 300 μL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 mL | CO | CH4O
product | Methyl 7-methyl-1H-indole-4-carboxylate | CC1=CC=C(C=2C=CNC12)C(=O)OC | C11H11NO2
